US05126342
To a stirred suspension of 1-((2'-((benzoylamino)sulfonyl)(1,1'-biphenyl)-4-yl)methyl)-2-butyl-4-chloro-1H-imidazole-5-carboxylic acid, methyl ester (25 mg, 0.044 mmol) in methanol (1.0 ml) was added 2N sodium hydroxide solution (0.50 ml). The pale yellow solution was stirred at room temperature for 3 hours then the methanol was removed in vacuo. Saturated sodium dihydrogen phosphate solution was added followed by ethyl acetate and the organic phase separated. The aqueous phase was re-extracted twice with ethyl acetate, then the combined organic phase washed with brine, dried, (magnesium sulfate) and the solvent removed in vacuo. Flash chromatography (silica gel, 0.25% acetic acid-2.5% methanolmethylene chloride) afforded 1-((2'-((benzoylamino)sulfonyl)(1,1'-biphenyl)-4-yl)methyl)-2-butyl-4-chloro-1H-imidazole-5-carboxylic acid (11.5 mg, 47%) as a white solid; 1H NMR (300 MHz, CD3OD) δ8.27 (d, J=8.5 Hz, 1H), 7.71-7.50 (m, 3H), 7.50-7.36 (m, 4H), 7.35-7.23 (m, 3H), 6.98 (d, J=8.0 Hz, 2H), 5.70 (s, 2H), 2.67 (apparent t, 2H), 1.64 (apparent quin, 2H), 1.35 (apparent sext, 2H), 0.90 (t, J=7.3 Hz, 3H); FAB-MS: 574 (M+Na), 552 (M+H).

reactant | 1-((2'-((benzoylamino)sulfonyl)(1,1'-biphenyl)-4-yl)methyl)-2-butyl-4-chloro-1H-imidazole-5-carboxylic acid, methyl ester | 0.044 mmol, 25 mg | C(C1=CC=CC=C1)(=O)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)OC)Cl)CCCC | C29H28ClN3O5S
reactant | sodium hydroxide | 2N, 0.50 ml | [OH-].[Na+]
solvent | methanol | 1.0 ml | CO | CH4O
product | 1-((2'-((benzoylamino)sulfonyl)(1,1'-biphenyl)-4-yl)methyl)-2-butyl-4-chloro-1H-imidazole-5-carboxylic acid | 11.5 mg, 47% | C(C1=CC=CC=C1)(=O)NS(=O)(=O)C1=C(C=CC=C1)C1=CC=C(C=C1)CN1C(=NC(=C1C(=O)O)Cl)CCCC | C28H26ClN3O5S
